Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
Novocain / Peanut / Tree Nut
 
Attending: ___
 
Chief Complaint:
transient scotoma
 
Major Surgical or Invasive Procedure:
N/A

 
History of Present Illness:
___ is a ___ right handed man who presents to 
the ED for evaluation of a transient blind spot in his vision 
yesterday. He was at work doing a survey of a building. He went 
to his car to write something down when he noticed that the left 
lower field of his vision was missing. He covered one eye and 
then the other and both eyes were affected. There was no 
associated shimmering or bright lights. Soon thereafter, he 
developed a right sided sharp and severe headache in his temple 
and in the back of his head associated with nausea. He doesn't 
think he had photophobia but did have the visor down in his car 
to shield the sun. He didn't feel comfortable driving because 
the scotoma was prominent. This lasted for about 25 minutes, 
from ___ so he went to a restaurant to eat lunch. At 
that point, the scotoma gradually improved and had resolved by 1 
hour. The nausea improved with eating a meal. The headache 
gradually improved over the evening but is still present today. 
He also has some concentration complaints and has felt somewhat 
sluggish during the headache. He called his doctor today to get 
a work note, who recommended he be evaluated in the ED. 

He had a similar episode ___ years ago of a transient partial 
vision loss associated with a headache. He had no vascular risk 
factors at the time. He was evaluated at ___ where he had a 
normal brain and orbits MRI. He also underwent a TIA workup with 
vessel imaging and TTE. Carotid dopplers were normal. TTE with 
bubble was suggestive of a probable PFO (vs. ASD) though he 
ultimately underwent TEE which did not show a PFO. Overall this 
was felt most likely to be a migraine with aura. 

In ___ he was evaluated for a 30 minute episode of a transient 
blind spot in his left visual field, though at that time he 
thought it was monocular. This was also associated with a 
headache. He underwent workup for GCA and carotid stenosis. 
Carotid dopplers at that time were normal and ESR was 0. He was 
referred urgently to ophthalmology clinic however those notes 
are not available in OMR to review.

He does get headaches from time to time. They are usually 
unilateral, non-throbbing, and associated with nausea. He 
doesn't typically get photophobia. He does get phonophobia, but 
also tends to get this when he doesn't have a headache. His 
mother gets migraine headaches.
 
He has been under a lot of stress lately. His wife has cancer 
and is undergoing chemo. His daughter has anxiety and he stayed 
up all night with her ___ helping finish her school work. 
Given all of his demands at home and work, he has been skipping 
meals and was dehydrated yesterday when this episode happened.

Regarding his past neurologic history, he has had two episodes 
of alteration of awareness and four stereotyped episodes of 
unresponsiveness, eye deviation, head twitching and postictal 
confusion, consistent with complex partial seizures. He is 
followed by ___ in the epilepsy department at ___. 
 
Review of Systems: He reports having mild lightheadedness at 
lunch while straining eyes to see menus (didn't have his 
glasses). He also has had recent weight gain after his prostate 
surgery. The pt denies blurred vision, diplopia, dysarthria, 
dysphagia, vertigo, tinnitus or hearing difficulty. Denies 
difficulties producing or comprehending speech.  Denies focal 
weakness, numbness, parasthesiae. No bowel or bladder 
incontinence or retention. The pt denies recent fever or chills. 
 No recent weight loss. Denies cough, shortness of breath.  
Denies chest pain or palpitations.  Denies nausea, vomiting, 
diarrhea, constipation or abdominal pain.  No recent change in 
bowel or bladder habits.  No dysuria. Denies rash.
 
Past Medical History:
HTN - recent diagnosis, on BP meds for 2 months
HLD - trying to control with diet/exercise
epilepsy
OSA
prostate cancer s/p prostatectomy
HSV ___
s/p tonsillectomy
s/p wisdom teeth extraction
 
Social History:
___
Family History:
- mother: DM, GI cancer, and migraines
- MGM: DM
- daughter: anxiety
- uncle with prostate cancer
 
Physical Exam:
ADMISSION EXAMINATION:
EXAMINATION
Vitals:  61  137/70  14  100% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT 
Pulmonary: ctab, breathing comfortably on RA
Cardiac: RRR, no murmurs
Abdomen: nondistended
Extremities: no edema, warm
Skin: no rashes or lesions noted.
 
NEUROLOGIC EXAMINATION
-Mental Status: Alert, oriented.  Able to relate history without 
difficulty.  Language is fluent with intact repetition and 
normal prosody.  There were no paraphasic errors.  Pt. was able 
to name both high and low frequency objects on the stroke card. 
Described the cookie jar picture with detail.  Able to read 
without difficulty.  Speech was not dysarthric.  Able to follow 
both midline and appendicular commands.  Attentive, able to name 
___ backward without difficulty.  There was no evidence of 
neglect.

-Cranial Nerves:
I: Olfaction not tested.
II: PERRL 3 to 2mm bilaterally.  VFF to confrontation with 
finger wiggling with no extinction to DSS. Funduscopic exam 
revealed no papilledema. visual acuity was ___ bilaterally 
(with glasses)
III, IV, VI: EOMI with a few beats of end gaze nystagmus 
bilaterally.   
V: Facial sensation intact to light touch 
VII: No facial droop with symmetric upper and lower facial 
musculature bilaterally  
VIII: Hearing intact to voice.
IX, X: Palate elevates symmetrically.
XI: shoulder shrug is symmetric.
XII: Tongue protrudes in midline with full ROM right and left 
 
-Motor: Normal bulk throughout. No pronator drift bilaterally. 
No tremor noted. No asterixis.
 Delt Bic Tri WrE FFl FE IO  IP Quad Ham TA ___
L  ___   ___  ___   5   5    5     5   5
R  ___   ___  ___   5   5    5     5   5
 
-DTRs:
    Bi  Tri  ___  Pat  Ach
L   2    2     2     2    2
R   2    2     2     2    2
- Toes were downgoing on the left, slightly upgoing on the 
right.

-Sensory: No deficits to light touch, pinprick, cold sensation, 
vibratory sense throughout. 

-Coordination: No dysmetria on FNF. 

-Gait: Good initiation. Narrow-based, normal stride.  Able to 
walk on toes, heels, and in tandem without difficulty. ___ 
absent.
 
=
=
=
================================================================
DISCHARGE EXAMINATION
- unchanged from admission examination with the exception of the 
following:
-- both toes noted to be mute

 
Pertinent Results:
==========
LABORATORY
==========
___ 07:23AM BLOOD WBC-5.3 RBC-5.26 Hgb-15.4 Hct-46.1 MCV-88 
MCH-29.3 MCHC-33.4 RDW-12.4 RDWSD-39.8 Plt ___
___ 05:24PM BLOOD Neuts-62.5 ___ Monos-5.4 Eos-1.9 
Baso-0.4 Im ___ AbsNeut-4.71# AbsLymp-2.22 AbsMono-0.41 
AbsEos-0.14 AbsBaso-0.03
___ 07:23AM BLOOD ___ PTT-32.2 ___
___ 05:24PM BLOOD Glucose-72 UreaN-15 Creat-0.9 Na-140 
K-4.3 Cl-100 HCO3-26 AnGap-18
___ 07:23AM BLOOD ALT-31 AST-33 LD(___)-201 AlkPhos-60 
TotBili-0.7
___ 07:23AM BLOOD cTropnT-<0.01
___ 07:23AM BLOOD Albumin-4.2 Calcium-9.4 Phos-3.9 Mg-2.2 
Cholest-187
___ 07:23AM BLOOD %HbA1c-5.3 eAG-105
___ 07:23AM BLOOD Triglyc-110 HDL-42 CHOL/HD-4.5 
LDLcalc-123
___ 07:23AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 05:46AM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
___ 03:55PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

=======
IMAGING
=======
CTA H&N - ___
1. Rounded 8 mm hypodensity posterior to the occipital horn of 
the right 
lateral ventricle may represent sequelae of chronic small vessel 
ischemic 
disease or, in the setting of acute visual changes, a small 
focal lesion, 
without definite correlate on prior MRI (03:16). MRI is 
recommended for 
further evaluation. Otherwise no loss of gray-white 
differentiation to 
suggest acute infarction. 
2. A 2 mm aneurysm arises from the junction of the left A1 
segment and 
anterior communicating artery, extending medially (2: 271- 272). 

3. No stenosis, occlusion, dissection, or aneurysm greater than 
3 mm in the great vessels of the head or neck. 
4. No acute intracranial hemorrhage. 
5. Final read pending 3D reformations. 

MRI BRAIN W AND WO - ___
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift or infarction. The ventricles and sulci are normal 
in caliber and 
configuration. There is no abnormal enhancement after contrast 
administration. 

 
Brief Hospital Course:
___ w h/o HTN, HLD, and epilepsy presents with a transient blind 
spot for 25 minutes followed by a unilateral headache associated 
with nausea. He has had multiple previous similar events ___ 
and ___ with prior negative workups for stroke/TIA, carotid 
stenosis, and temporal arteritis. NCHCT was questionably 
abnormal with hypodensity in right occipital lobe. Follow-up MRI 
was normal, and the CT finding was felt to be most consistent 
with volume averaging from nearby sulci. 
The most likely diagnosis for his symptoms is migraine, though 
seizure difficult to exclude. However, his recent episode was 
not consistent with prior seizure semiology (nocturnal 
unresponsiveness, eye deviation, head twitching and postictal 
confusion). Additionally, his current episode would not be 
referable to previously identified epileptogenic focus (L 
frontotemporal). We will defer any decisions regarding his AED 
regimen to his outpatient neurologist (Dr. ___ - for now we 
will make no dose adjustments. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. LevETIRAcetam 750 mg PO QAM 
3. LevETIRAcetam 1250 mg PO QPM 
4. Loratadine 10 mg PO PRN allergies 
5. Pyridoxine 50 mg PO DAILY 

 
Discharge Medications:
1.  amLODIPine 5 mg PO DAILY  
2.  LevETIRAcetam 750 mg PO QAM  
3.  LevETIRAcetam 1250 mg PO QPM  
4.  Loratadine 10 mg PO PRN allergies  
5.  Pyridoxine 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Migraine

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were hospitalized for visual difficulties, headache, and 
confusion. We believe that the most likely diagnosis is a 
migraine headache. We took multiple images of your brain and do 
not see any abnormalities which would have caused your symptoms. 
Your neurological examination is now normal, and you are safe to 
return home.
Please make all attempts to stay well rested and do what you can 
to limit stress. Call Dr. ___ office on ___ (number below) 
to discuss if you should make an earlier follow up appointment 
(current appointment is scheduled for ___.

It was a pleasure caring for you.
___ Neurology
 
Followup Instructions:
___